US06977262B2
To a solution of 2-oxazolydone (20.8 g) in tetrahydrofuran (750 ml) was added n-butyllithium (1.56 M hexane solution, 153 ml) at −78° C. and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added a solution of cyclopropanecarbonyl chloride (25 g) in tetrahydrofuran (50 ml) at −78° C. over 30 minutes. The mixture was stirred for 14 hours while gradually raising the temperature to room temperature. The reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give white crystals (26 g). A mixture of the obtained white crystals (10 g), ethyl bromoacetate (21.5 ml) and zinc powder (25.3 g) in tetrahydrofuran (300 ml) was ultrasonicated for 2 hours and heated under reflux for 2 hours. To the reaction mixture was added 10% hydrochloric acid and the insoluble material was filtered off through Celite. The filtrate was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give ethyl 3-cyclopropyl-3-oxopropionate (5.7 g) as a yellow oil. Subsequently, the title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl 3-cyclopropyl-3-oxopropionate in the same manner as in Example 275.

reactant | ethyl bromoacetate | 21.5 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | zinc | 25.3 g | [Zn] | Zn
product | ethyl 3-cyclopropyl-3-oxopropionate | 5.7 g | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
